US07259183B2
382 mg (1.72 mmol) of 1-(2-amino-5-chloro-4-fluoro-phenyl)-2-chloro-ethanone as a 3:1 mixture of regioisomers were dissolved in 9.5 ml 90% aqueous dioxane and 72 mg (1.89 mmol) of sodium borohydride were added in portions. The reaction mixture was heated to reflux for 1 h, additional 72 mg (1.89 mmol) of sodium borohydride were added and the reaction mixture was heated to reflux over night. The solvent was evaporated, the residue dissolved in DCM. The organic layer was washed once with 1N aqueous HCl solution, once with saturated aqueous NaHCO3 solution and once with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (25 g silica gel; heptane/DCM 4:1) to yield 153 mg (52%) 5-chloro-6-fluoro-1H-indole as light yellow crystals as a 3:1 mixture of regioisomers (predominantly the wanted one). 1H NMR (CDCl3, 300 MHz): δ 8.16 (br, 1H), 7.62 (d, 1H), 7.20 (s, 1H), 7.13 (d, 1H), 6.50 (s, 1H).

reactant | 1-(2-amino-5-chloro-4-fluoro-phenyl)-2-chloro-ethanone | 1.72 mmol, 382 mg | NC1=C(C=C(C(=C1)F)Cl)C(CCl)=O | C8H6Cl2FNO
reactant | sodium borohydride | 1.89 mmol, 72 mg | [BH4-].[Na+]
reactant | sodium borohydride | 1.89 mmol, 72 mg | [BH4-].[Na+]
solvent | dioxane | 9.5 ml | O1CCOCC1 | C4H8O2
product | 5-chloro-6-fluoro-1H-indole | 153 mg, 52% | ClC=1C=C2C=CNC2=CC1F | C8H5ClFN
